US07018988B2
(3EZ,5S)-5-{[4-(1,3-benzodioxol-5-ylmethyl)-1-piperazinyl]carbonyl}-1-benzoyl-3-pyrrolidinone O-(3,4-dichlorobenzyl)oxime
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, benzoyl chloride, and 1-(1,3-benzodioxol-5-ylmethyl)piperazine the title compound was obtained in 71% purity by LC/MS. MS(ESI+): m/z=609.8.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)O | C17H20Cl2N2O5
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 1-(1,3-benzodioxol-5-ylmethyl)piperazine | O1COC2=C1C=CC(=C2)CN2CCNCC2 | C12H16N2O2
product | (3EZ,5S)-5-{[4-(1,3-benzodioxol-5-ylmethyl)-1-piperazinyl]carbonyl}-1-benzoyl-3-pyrrolidinone O-(3,4-dichlorobenzyl)oxime | ClC=1C=C(CON=C2CN([C@@H](C2)C(=O)N2CCN(CC2)CC2=CC3=C(OCO3)C=C2)C(C2=CC=CC=C2)=O)C=CC1Cl | C31H30Cl2N4O5
